US09145427B2
Ethyl 2-amino-3-oxo-3-(tetrahydro-2H-pyran-4-yl)propanoate, hydrochloride salt [C61, which may be prepared according to the general procedure for synthesis of ethyl 2-amino-3-oxo-3-(tetrahydrofuran-3-yl)propanoate, hydrochloride salt (C11) in Example 3, through the use of tetrahydro-2H-pyran-4-carbonyl chloride in place of tetrahydrofuran-3-carbonyl chloride] (200 g, ≦0.56 mol) was combined with triethyl orthoacetate (200 mL, 1.1 mol) in methanol (200 mL), and the reaction was stirred at room temperature for 2 days. Concentration in vacuo afforded the crude intermediate, ethyl 2-methyl-5-(tetrahydro-2H-pyran-4-yl)-1,3-oxazole-4-carboxylate (C62). This was mixed with acetic acid (500 mL), treated with ammonium acetate (600 g, 7.8 mol) and heated to 99° C. for 2 days. At this point, additional ammonium acetate (100 g, 1.3 mol) was added, and heating was continued for 24 hours. The reaction mixture was then diluted with ethyl acetate (4 L) and water (2 L), and the pH was adjusted to ˜9 with aqueous ammonium hydroxide solution. The aqueous layer was extracted with ethyl acetate (1 L), and the combined organic layers were diluted with cyclohexane (1 L), washed with saturated aqueous potassium bicarbonate solution (1 L), washed with saturated aqueous sodium chloride solution (1 L), and concentrated under reduced pressure. The residue was dissolved in diethyl ether (1 L) and seeded; the resulting crystals were isolated by filtration, affording the product as a solid. Yield: 75 g, 0.31 mol, 55% from tetrahydro-2H-pyran-4-carboxylic acid.

reactant | Ethyl 2-amino-3-oxo-3-(tetrahydro-2H-pyran-4-yl)propanoate, hydrochloride salt | Cl.NC(C(=O)OCC)C(C1CCOCC1)=O
reactant | ethyl 2-amino-3-oxo-3-(tetrahydrofuran-3-yl)propanoate, hydrochloride salt | Cl.NC(C(=O)OCC)C(C1COCC1)=O
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | O1CCC(CC1)C(=O)Cl | C6H9ClO2
reactant | triethyl orthoacetate | 1.1 mol, 200 mL | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | methanol | 200 mL | CO | CH4O
product | ethyl 2-methyl-5-(tetrahydro-2H-pyran-4-yl)-1,3-oxazole-4-carboxylate | CC=1OC(=C(N1)C(=O)OCC)C1CCOCC1 | C12H17NO4
